US06096753
1-(2-Furyl-3-(4-pyridyl)-2-propene-1-one: MS (m/z): 200.0 (M+H)+ ; C12H9NO2 requir. 199.2. 1-Cyclohexyl-3-(4-pyridyl)-2-propene-1-one was prepared in the same way using acetylcyclohexane: MS (m/z): 216.2 (M+H)+ ; C14H17NO requir. 215.3.

reactant | 2-Furyl-3-(4-pyridyl)-2-propene-1-one | O1C(=CC=C1)C(C=CC1=CC=NC=C1)=O | C12H9NO2
reactant | acetylcyclohexane | C(C)(=O)C1CCCCC1 | C8H14O
product | 1-Cyclohexyl-3-(4-pyridyl)-2-propene-1-one | C1(CCCCC1)C(C=CC1=CC=NC=C1)=O | C14H17NO
